US05580863
Dimethyl 4-aminobenzylphosphonate (21.5 g) and then paraformaldehyde (80%, 5.3 g) were added at room temperature to a solution of sodium methoxide in methanol (prepared from 27 g of sodium and 250 ml of methanol). After this mixture was stirred at room temperature for 15 hours, sodium borohydride (3.8 g) was added, and the mixture was heated for 1.5 hours while refluxing. The reaction mixture was concentrated under reduced pressure and then the residue was treated with 1NKOH (500 ml) and extracted with chloroform. The chloroform layer was washed with water and dried (MgSO4), after which the solvent was distilled off. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-chloroform-methanol (25:25:1, v/v) to yield dimethyl 4-methylaminobenzylphosphonate (2.9 g, 13%) as an oily substance. NMR(δ ppm in CDCl3): 2.55(1H,broad s), 2.82(3H,s), 3.07(2H,d,J=21 Hz), 3.63(3H,s), 3.69(3H,s), 6.57(2H,dd,J=9&1 Hz), 7.11(2H,dd,J =9&3 Hz)

reactant | Dimethyl 4-aminobenzylphosphonate | 21.5 g | NC1=CC=C(CP(OC)(OC)=O)C=C1 | C9H14NO3P
reactant | paraformaldehyde | 5.3 g | C=O | CH2O
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium borohydride | 3.8 g | [BH4-].[Na+]
solvent | methanol | 250 ml, 27 g | CO | CH4O
product | dimethyl 4-methylaminobenzylphosphonate | 2.9 g, 13% | CNC1=CC=C(CP(OC)(OC)=O)C=C1 | C10H16NO3P
